US05037829
To a mixture of 4.35 parts of intermediate 2, namely 3,4-dihydro-6-(3-pyridinylcarbonyl)-2(1H)-quinazolinone monohydrochloride, 63.2 parts of methanol, 1.2 parts of sodium hydroxide and 15 parts of water were added portionwise 0.6 parts of sodium tetrahydroborate. After stirring for 2 hours at room temperature, there was added a mixture of 2.1 parts of acetic acid in 25 parts of water. The precipitate was filtered off, washed with water, 2-propanol and 1,1'-oxybisethane and dried, yielding 3.7 parts (96.6%) of 3,4-dihydro-6-[hydroxy(3-pyridinyl)methyl]-2(1H)-quinazolinone; mp. 272.0° C. (interm. 27).

reactant | 3,4-dihydro-6-(3-pyridinylcarbonyl)-2(1H)-quinazolinone monohydrochloride | Cl.N1=CC(=CC=C1)C(=O)C=1C=C2CNC(NC2=CC1)=O
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium tetrahydroborate | [BH4-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,4-dihydro-6-[hydroxy(3-pyridinyl)methyl]-2(1H)-quinazolinone | 96.6% | OC(C=1C=C2CNC(NC2=CC1)=O)C=1C=NC=CC1 | C14H13N3O2
